*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents

* voltage source
Va 1 0 5.04864033546
Vzero 8 7 0

* current source
Id 7 5 1.02502620056m

* current-controlled voltage source
Hc 4 7 Vzero 8.03913881798k

* voltage-controlled current source
Gb 5 3 (2,4) 7.05958243757m

R1 1 2 1.00781211614k
R2 2 3 2.00311223204k
R3 2 4 3.04503555589k
R4 0 4 4.17896607062k
R5 4 5 3.10615699135k
R6 0 6 2.06090134563k
R7 6 8 1.00634569025k

.control

op

echo "************************************"
echo  "Operating point"
echo "************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
